US06258976B1
N-(5-cyanopentyl)thiourea
To a 0.5M solution of ammonia in dioxane (80 ml) at 10° C. was added 5-cyanopentyl isothiocyanate (5 g) and the solution was stirred at room temperature overnight. TLC of the reaction mixture still showed the presence of some starting material. Additional ammonia in dioxane (40 ml) was added and the solution was stirred for a further 6 hours. At this stage, the reaction was found to be complete as judged by TLC analysis. The solvent was then removed on a rotary evaporator and to the residue was added methyl tert-butyl ether (40 ml). The mixture was then heated on steam bath briefly (the solid did not dissolve) then cooled to give the required product as a colorless crystalline material (5 g), m.p. 69-71° C.

reactant | ammonia | N | H3N
reactant | 5-cyanopentyl isothiocyanate | 5 g | C(#N)CCCCCN=C=S | C7H10N2S
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-(5-cyanopentyl)thiourea | C(#N)CCCCCNC(=S)N | C7H13N3S
